US04125732
Methyl(α,α,α-trifluoro-p-tolyloxy)-{p-[2-(p-tert-butylphenoxy)propoxy]phenyl}acetate
As described in Example 71, methyl bromo{p-[2-(p-tert-butylphenoxy)propoxy]phenyl}acetate (0.017 mole) is reacted with 2.75 g of α,α,α-trifluoro-p-cresol in 75 ml of tetrahydrofuran at 80° C. for 24 hrs to give the product as a gum.

reactant | methyl bromo{p-[2-(p-tert-butylphenoxy)propoxy]phenyl}acetate | 0.017 mole | BrC(C(=O)OC)C1=CC=C(C=C1)OCC(C)OC1=CC=C(C=C1)C(C)(C)C | C22H27BrO4
reactant | α,α,α-trifluoro-p-cresol | 2.75 g | FC(C=1C=CC(=CC1)O)(F)F | C7H5F3O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | Methyl(α,α,α-trifluoro-p-tolyloxy)-{p-[2-(p-tert-butylphenoxy)propoxy]phenyl}acetate | COC(C(C1=CC=C(C=C1)OCC(C)OC1=CC=C(C=C1)C(C)(C)C)OC1=CC=C(C=C1)C(F)(F)F)=O | C29H31F3O5
